US08084623B2
To a −78° C. solution of 1-benzenesulfonyl-5-fluoro-1H-indole (539 mg, 1.96 mmol) in 30 mL THF, t-BuLi (1.5 mL, 2.54 mmol) was slowly added. The reaction mixture was stirred for 30 minutes, then a solution of 4-formyl-4-propyl-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.96 mmol) in 5 mL THF was added. The reaction was allowed to stir for 2 hours at −78° C. and was then warmed to −20° C. and quenched with a saturated aqueous solution of ammonium chloride. The reaction mixture was extracted with ethyl acetate and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated onto silica. The material was chromatographed over a 25 g Thomson column eluting with 20% ethyl acetate 80% hexanes to afford 4-[(1-benzenesulfonyl-5-fluoro-1H-indol-2-yl)-hydroxy-methyl]-4-propyl-piperidine-1-carboxylic acid tert-butyl ester (319 mg, 0.6 mmol) in a 53% yield as a beige foam.

reactant | 1-benzenesulfonyl-5-fluoro-1H-indole | 1.96 mmol, 539 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)F | C14H10FNO2S
reactant | t-BuLi | 2.54 mmol, 1.5 mL | [Li]C(C)(C)C
reactant | 4-formyl-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 1.96 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C=O | C14H25NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[(1-benzenesulfonyl-5-fluoro-1H-indol-2-yl)-hydroxy-methyl]-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 319 mg, 53% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C(O)C=1N(C2=CC=C(C=C2C1)F)S(=O)(=O)C1=CC=CC=C1 | C28H35FN2O5S
